data/oMe_Silver.jsonl
{"reaction_id": "NR-071_1-C(C)(C)C_2-C(C)(C)C_3-C(F)(F)F_4-C(C)(C)C_5-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_6-C(F)(F)F_7-c1ccccc1","name": "Evans-Mislow Rearrangement","level": "medium","reactants_smiles": ["C(C(C)(C)C)(C(C)(C)C)=C(C(F)(F)F)C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)S(=O)(C(F)(F)F)","O(c1ccccc1)P(O(c1ccccc1))O(c1ccccc1)"],"products_smiles": ["OC(C(C)(C)C)(C(C)(C)C)C(C(F)(F)F)=C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "P(OR)3","mechnism_text_description": "The reaction proceeds via a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to form an allylic sulfenate ester intermediate. This intermediate is then trapped by a thiophilic reagent, trialkyl phosphite, which attacks the sulfur atom. This attack results in the cleavage of the S-O bond to form an alkoxide. Subsequent protonation of the alkoxide yields the final allylic alcohol product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "S(C(F)(F)F)OC(C(C)(C)C)(C(C)(C)C)C(C(F)(F)F)=C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "The [2,3]-sigmatropic rearrangement proceeds via a concerted pericyclic pathway, driven by favorable orbital overlap and stabilization of the developing charges through conjugation with the allylic system."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[O-]C(C(C)(C)C)(C(C)(C)C)C(C(F)(F)F)=C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "Trialkyl phosphite, being a strong nucleophile toward soft electrophiles, attacks the sulfur atom, exploiting sulfur’s polarizability and leading to S–O bond cleavage to form a stabilized alkoxide."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(C)(C)C)(C(C)(C)C)C(C(F)(F)F)=C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "The alkoxide is protonated under the reaction conditions to yield the neutral allylic alcohol, driven by the thermodynamic stability of the alcohol and the availability of proton sources."}],"description": "The reaction involves a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to generate a sulfenate ester, which is then attacked by trialkyl phosphite at sulfur due to its thiophilicity. This cleavage yields an alkoxide, which is protonated to form the allylic alcohol."}
{"reaction_id": "NR-244_1-c2ccc(C#N)cc2_4-C=C","level": "easy","name": "Stork Enamine Synthesis","reactants_smiles": ["C(c2ccc(C#N)cc2)(=C)N1CCCC1","C(C=C)Br"],"products_smiles": ["C(=O)(c2ccc(C#N)cc2)CC(C=C)"],"conditions": "H2O","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c2ccc(C#N)cc2)(=[N+]1CCCC1)CC(C=C)","step_weight": 0,"rationale": "The enamine's electron-rich α-carbon attacks the electrophilic carbon in the alkyl halide via SN2, favored by the good leaving ability of bromide and minimal steric hindrance at the electrophilic site."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c2ccc(C#N)cc2)(N1CCCC1)(CCC=C)[OH2+]","step_weight": 0,"rationale": "Water, activated by the iminium's strong electrophilicity, adds to the iminium carbon due to resonance stabilization of the positive charge on nitrogen, facilitating nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c2ccc(C#N)cc2)([NH+]1CCCC1)(CCC=C)O","step_weight": 0,"rationale": "Proton transfer from the oxonium to nitrogen relieves positive charge on oxygen, stabilizing the intermediate and preparing for C–N bond cleavage."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c2ccc(C#N)cc2)(=[OH+])CC(C=C)","step_weight": 0,"rationale": "Elimination of the amine occurs as nitrogen's lone pair reforms, expelling it as a leaving group; the driving force is formation of the strong C=O double bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c2ccc(C#N)cc2)CC(C=C)","step_weight": 0,"rationale": "Deprotonation of the protonated carbonyl restores neutrality, favored by the stability of the neutral ketone under aqueous conditions."}],"description": "The enamine acts as a nucleophile toward the alkyl halide via SN2, forming an iminium intermediate. Subsequent aqueous hydrolysis converts the iminium to a carbonyl through nucleophilic addition of water, proton transfers, and elimination, yielding the ketone product."}
